US04243672
A mixture of pyrrole (6.7 g., 0.10 mole) and thiourea (7.6 g., 0.10 mole) in 50% aqueous ethanol (500 ml.) was stirred at room temperature under nitrogen while a solution of potassium iodide (16.6 g., 0.10 mole) and iodine (12.7 g., 0.05 mole) in water (100 ml.) was added dropwise. The solution was cooled to 0° and a solution of propyl iodide (18 g., 0.105 mole) in methanol (20 ml.) was added followed by the dropwise addition of a solution of potassium hydroxide (5.6 g.) in 50% aqueous methanol (40 ml.). The mixture was stirred for a further 1.5 hours at room temperature and the solution then neutralized by the addition of solid carbon dioxide. The reaction mixture was poured into a solution of sodium chloride (25 g.) in water (100 ml.) and the solution extracted with methylene chloride (3×50 ml.). The organic extracts were combined, dried over sodium sulphate and the solvent evaporated to give an oil which was distilled under reduced pressure to yield 2-n-propylthiopyrrole (1.0 g.), B.P. 115° at 15 mm.

reactant | pyrrole | 0.10 mole, 6.7 g | N1C=CC=C1 | C4H5N
reactant | thiourea | 0.10 mole, 7.6 g | NC(=S)N | CH4N2S
reactant | potassium iodide | 0.10 mole, 16.6 g | [I-].[K+]
reactant | iodine | 0.05 mole, 12.7 g | II | I2
reactant | propyl iodide | 0.105 mole, 18 g | C(CC)I | C3H7I
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium chloride | 25 g | [Cl-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-n-propylthiopyrrole | 1.0 g | C(CC)SC=1NC=CC1 | C7H11NS
